US09340547B2
2-(tert-Butoxycarbonylamino)-3,3,3-trifluoropropanoic acid
650 mg (4.54 mmol) of 2-amino-3,3,3-trifluoropropanoic acid (purchased from Aldrich®; cat. no. 307556) and 866 mg (9.50 mmol) of tetramethylammonium were suspended in 30 mL acetonitrile. The mixture was stirred for 30 minutes until a clear solution was observed. Then 1.98 g (9.09 mmol) of di-tert-butyl dicarbonate were added and the resulting solution was stirred for 2 hours at room temperature. The solvent was removed in vacuum and the residue was dissolved in water and this solution was washed twice with diethylether. The aqueous layer was acidified with 2M hydrochloric acid and the product was extracted with ethyl acetate (x3). The combined organic layers were washed with brine, dried over magnesium sulphate, filtered and the solvent was removed in vacuum to furnish 830 mg (75% yield) of a white solid.

reactant | 2-amino-3,3,3-trifluoropropanoic acid | 4.54 mmol, 650 mg | NC(C(=O)O)C(F)(F)F | C3H4F3NO2
reactant | tetramethylammonium | 9.50 mmol, 866 mg | C[N+](C)(C)C
reactant | di-tert-butyl dicarbonate | 9.09 mmol, 1.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(tert-Butoxycarbonylamino)-3,3,3-trifluoropropanoic acid | 830 mg, 75% yield | C(C)(C)(C)OC(=O)NC(C(=O)O)C(F)(F)F | C8H12F3NO4
